US04504415
Ac-Ser(tBu)-Asp(OtBu)-Ala-OSu, VII, 10,
A solution of Ac-Ser(tBu)-Asp(OtBu)-Ala-OH (24.7 g, 55.4 mmol) in dry THF (526 mL) was treated with HOSu (9.55 g, 83.1 mmol, 1.5 eq.) and cooled to 0°. To the cold stirring (mechanical) solution DCC (17.14 g, 83.1 mmol, 1.5 eq.) was added portionwise and stirring proceeded at 0° for 30 min at 25° for 5 h. The reaction mixture was filtered and the filtrate evaporated to dryness and crystallized from isopropanol (250 mL). Yield: 23.2 g (77.2%); mp 155°-157°; [α]D25 -41.48° (c 1, MeOH); Rf 0.54 (CHCl3 :MeOH:AcOH; 80-5-1). Anal. calc. for C24H38N4O10 (542.58): C, 53.13; H, 7.06; N, 10.33. Found: C, 53.21; H, 6.85; N, 10.29.

reactant | Ac-Ser(tBu)-Asp(OtBu)-Ala-OH | 55.4 mmol, 24.7 g | N([C@@H](COC(C)(C)C)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](C)C(=O)O)C(=O)C | C20H35N3O8
reactant | HOSu | 83.1 mmol, 9.55 g, 1.5 eq. | ON1C(=O)CCC1=O | C4H5NO3
reactant | DCC | 83.1 mmol, 17.14 g, 1.5 eq. | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | THF | 526 mL | C1CCOC1 | C4H8O
product | Ac-Ser(tBu)-Asp(OtBu)-Ala-OSu | N([C@@H](COC(C)(C)C)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](C)C(=O)ON1C(=O)CCC1=O)C(=O)C | C24H38N4O10
